US07307094B2
A 500-mL one-neck round-bottomed flask equipped with a magnetic stirrer was charged with 8-methyl-8-aza-bicyclo[3.2.1]octan-3-one (5.00 g, 35.9 mmol), hydroxylamine hydrochloride (7.08 g, 102 mmol) sodium acetate (39.0 g, 476 mmol) and ethanol (45 mL). After stirring at ambient temperature for 4 h, the reaction mixture was evaporated to a solid residue. This residue was triturated with ethyl acetate (200 mL) and filtered. Evaporation of the filtrate to dryness gave 5.08 g (93% yield) of 8-methyl-8-aza-bicyclo[3.2.1]octan-3-one oxime as a white solid: mp 140-142° C.; 1H NMR (300 MHz, CD3OD) δ 3.76 (m, 2H), 3.33-3.23 (m, 2H), 2.75 (m, 1H), 2.69 (s, 3H), 2.46-2.14 (m, 4H), 1.88-1.66 (m, 2H); MS (APCI) m/z 155 [M+H]+.

reactant | 8-methyl-8-aza-bicyclo[3.2.1]octan-3-one | 35.9 mmol, 5.00 g | CN1C2CC(CC1CC2)=O | C8H13NO
reactant | hydroxylamine hydrochloride | 102 mmol, 7.08 g | Cl.NO
solvent | ethanol | 45 mL | C(C)O | C2H6O
product | 8-methyl-8-aza-bicyclo[3.2.1]octan-3-one oxime | 5.08 g, 93% yield | CN1C2CC(CC1CC2)=NO | C8H14N2O
